US04413009
N-hydroxycyclopropanecarboxamide (5.0 grams), n-propyl isocyanate (9.3 grams) and 5 drops of triethylamine were stirred at room temperature in about 100 ml of methylene chloride for about 12 hours. The reaction mixture was then concentrated leaving an oily residue which crystallized upon scratching. This solid was then recrystallized from a mixture of cyclohexane and isopropanol and dried. Upon drying, the desired N-((propylamino)carbonyl)-N-(((propylamino)carbonyl)-oxy)cyclopropanecarboxamide was obtained as a white solid, m.p. 76°-78° C.

reactant | N-hydroxycyclopropanecarboxamide | 5.0 grams | ONC(=O)C1CC1 | C4H7NO2
reactant | n-propyl isocyanate | 9.3 grams | C(CC)N=C=O | C4H7NO
catalyst | triethylamine | 5 drops | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | about 100 ml | C(Cl)Cl | CH2Cl2
product | N-((propylamino)carbonyl)-N-(((propylamino)carbonyl)-oxy)cyclopropanecarboxamide | C(CC)NC(=O)N(C(=O)C1CC1)OC(=O)NCCC | C12H21N3O4
